US05624937
1-[4-(2-Benzothiazolylthio)phenyl]-3-(4-chloro-3-trifluoromethylphenyl)thiourea
2-(4-Aminophenylthio)benzothiazole (10.0 moles, 2.6 g) and 4-chloro-3-trifluoromethylphenylisothiocyanate (10.0 moles, 2.4 g) were reacted according to procedure C to yield of the title compound, 1.5 g, 30%. Mass Spec (FD) 495. Calculated for C21H13ClF3N3S3 : C, 50.85 H, 2.64 N, 8.47. Found: C, 51.02; H, 2.71; N, 8.31.

reactant | 2-(4-Aminophenylthio)benzothiazole | 10.0 moles, 2.6 g | NC1=CC=C(C=C1)SC=1SC2=C(N1)C=CC=C2 | C13H10N2S2
reactant | 4-chloro-3-trifluoromethylphenylisothiocyanate | 10.0 moles, 2.4 g | ClC1=C(C=C(C=C1)N=C=S)C(F)(F)F | C8H3ClF3NS
product | 1-[4-(2-Benzothiazolylthio)phenyl]-3-(4-chloro-3-trifluoromethylphenyl)thiourea | S1C(=NC2=C1C=CC=C2)SC2=CC=C(C=C2)NC(=S)NC2=CC(=C(C=C2)Cl)C(F)(F)F | C21H13ClF3N3S3
